US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-(benzothiazol-2-yl)aniline (51.0 mg) were used to obtain (2S,4S)-1-[[N-[4-[N-[4-(benzothiazol-2-yl)phenyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (10.4 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-(benzothiazol-2-yl)aniline | 51.0 mg | S1C(=NC2=C1C=CC=C2)C2=CC=C(N)C=C2 | C13H10N2S
product | (2S,4S)-1-[[N-[4-[N-[4-(benzothiazol-2-yl)phenyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 10.4 mg | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)NC(=O)C21CCC(CC2)(CC1)NCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C29H30FN5O2S
